US06541486B1
To a flame-dried 100 mL round-bottom flask equipped with a stir bar and a reflux condenser were added 4-chloro-1,2-phenylenediamine (1 g; 7.0 mmoles), 3-nitro-1,2-phenylenediamine (1.07 g; 7.0 mmoles), diethyl malonimidate dihydrochloride (1.62 g; 7.0 mmoles) and ultra pure acetic acid (ca. 35 mL; from Aldrich) under a nitrogen atmosphere. The mixture was refluxed for 2 hours and then cooled to room temperature, and the acetic acid was removed (via roto-vap). The residue was suspended and sonicated (ca. 5 minutes) in 0.5 M HCl, and the remaining precipitate was removed by filtration and dried (P2O5 and high-vacuum). This procedure gave 0.8 g of the desired 2-[(5-chloro-1H-benzimidazol-2-yl)methyl]4-nitro-1H-benzimidazole as a dark brown solid in 35% yield. It gave one major peak by HPLC and had mass spec (FB+): m/z=328.0 [M+].

reactant | 4-chloro-1,2-phenylenediamine | 7.0 mmoles, 1 g | ClC1=CC(=C(C=C1)N)N | C6H7ClN2
reactant | 3-nitro-1,2-phenylenediamine | 7.0 mmoles, 1.07 g | [N+](=O)([O-])C=1C(=C(C=CC1)N)N | C6H7N3O2
reactant | diethyl malonimidate dihydrochloride | 7.0 mmoles, 1.62 g | Cl.Cl.C(CC(OCC)=N)(OCC)=N
solvent | acetic acid | ca. 35 mL | C(C)(=O)O | C2H4O2
product | 2-[(5-chloro-1H-benzimidazol-2-yl)methyl]4-nitro-1H-benzimidazole | 0.8 g, 35% yield | ClC1=CC2=C(NC(=N2)CC2=NC3=C(N2)C=CC=C3[N+](=O)[O-])C=C1 | C15H10ClN5O2
